Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain status post laparoscopic cholecystectomy
 
Major Surgical or Invasive Procedure:
none major. MRCP

 
History of Present Illness:
Ms. ___ is a ___ old woman s/p lap cholecystectomy on 
___ with Dr. ___ at ___ who presented to ED 
at OSH with RUQ pain. She had a CT abdomen there that showed a 
fluid collection in the gallbladder fossa. She was transferred 
to ___ where repeat read showed no intra-abdominal fluid 
collections. However, she continued to have sharp, sudden-onset 
pain without nausea/vomiting/fever/chills. She was also found to 
have elevated LFTs, despite LFTs downtrending at the time of 
discharge post-cholecystectomy. Given the clinical picture and 
elevated LFTs, there was some concern for retained stone, and 
she was admitted to the general surgery service for workup.  

 
Past Medical History:
HLD, obesity, gastritis, colon polyp 

PSH: 
laparoscopic sleeve gastrectomy, renal AV fistula coiling 
 
Social History:
___
Family History:
mother-breast cancer
brother-sarcoma
many family members with HTN, DM, and heart disease 
 
Physical Exam:
Gen: AAOx3, NAD, sitting comfortably in bed
HEENT: MMM, no scleral icterus
Resp: nl effort, CTABL, no wheezes/rales/rhonchi
CV: RRR, nl S1/S2, no S3/S4, no murmurs/rubs/gallops
Abd: +BS, soft, ND, appropriately tender to palpation
Incisions C/D/I with steristrips
Ext: WWP, no edema, 2+ DP
 
Pertinent Results:
___ 05:28AM BLOOD WBC-6.0 RBC-4.20 Hgb-11.8 Hct-37.9 MCV-90 
MCH-28.1 MCHC-31.1* RDW-14.3 RDWSD-47.0* Plt ___
___ 05:28AM BLOOD Glucose-86 UreaN-9 Creat-0.5 Na-140 K-3.7 
Cl-103 HCO3-24 AnGap-17
___ 05:28AM BLOOD ALT-69* AST-51* AlkPhos-206* TotBili-0.8
___ 05:28AM BLOOD Calcium-9.1 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Ms. ___ was admitted to the General Surgical Service on 
___ for evaluation and treatment of abdominal pain status 
post a laparoscopic cholecystectomy on ___ at ___ 
with Dr. ___.  Admission labs revealed elevated LFTs 
despite downtrending LFTs at the time of discharge from ___ 
after the lap chole. She was a transfer from an OSH, and had a 
CT scan there showing fluid collection in the gallbladder fossa, 
but repeat read here showed no fluid collections. A discussion 
was begun with the GI service here regarding ERCP; however, GI 
felt an MRCP would be more appropriate for this case, and this 
was obtained on ___. The patient tolerated the procedure 
well, and remained floor in stable condition, with some 
improvement of symptoms but still some RUQ/epigastric abdominal 
discomfort/mild pain. Her symptoms remained mild, with 
downtrending LFTs, but she was kept NPO after midnight for two 
nights in a row in preparation for ERCP the next day due to the 
continued RUQ/epigastric discomfort. MRCP did not demonstrate a 
retained stone, but due to continued symptoms and the low 
sensitivity of MRCP for possible sludge prompted a conversation 
between Dr. ___ the GI attending about whether the 
patient would benefit from ERCP and sphincterotomy. Ultimately, 
the patient was given a PO challenge (with fatty foods) on the 
evening of HD#3, which she tolerated well with no symptoms. On 
HD#4, she remained asymptomatic, and the decision was made for 
discharge with post-operative follow-up as originally scheduled.

Throughout her stay, Ms. ___ remained nutritionally supported 
with IVF while NPO, and was given a regular diet when not 
preparing for a procedure. At the time of discharge his diet 
included regular diet, which she tolerated with no symptoms. The 
patient voided without problem. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin during this stay.

At the time of discharge, Ms. ___ was doing well, afebrile 
with stable vital signs. She was tolerating diet as above per 
oral, ambulating, voiding without assistance, and pain was well 
controlled.  She was discharged home without services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Amoxicillin 500mg PO q8h

 
Discharge Medications:
1.  Amoxicillin 500 mg PO Q8H  
2.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal liver function tests after cholecystectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
abdominal pain. You were found to have elevated liver function 
tests, but underwent an MRCP scan, showing no retained stone.  
Your pain has subsided and your laboratory values are 
normalizing, and so you are now ready to be discharged to home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- You may start some light exercise when you feel comfortable.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
-You should feel as you did before the admission.
-You may still feel washed out for several more weeks after your 
surgery, and may require frequent rest/naps.

YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

WOUND CARE:
-You may shower with any bandage strips that may be covering 
your wound. Do not scrub and do not soak; pat dry. The strips 
will peel off by themselves.
-Notify your surgeon if you notice excess or abnormal 
(foul-smelling, bloody, pus, etc.)drainage from your incision 
site.

Other:
-On your MRCP, we incidentally observed a 1.2cm R adnexal cyst. 
Because you are post-menopausal, you should follow up with your 
PCP or ___ and have an ultrasound in about ___ year.

Diet:
-There are no restrictions on your diet. 
 
Followup Instructions:
___